US07030139B2
10A: N,N-diethyl-3-nitro-4-{[2-(1-piperidinyl)ethyl]amino}benzamide.
Following general procedure 2B: A mixture of N,N-diethyl-4-fluoro-3-nitrobenzamide (1.0 g, 4.2 mmol), 2-(1-piperidinyl)ethanamine (0.564 mL, 3.96 mmol) in 80% aq. EtOH (30 mL) was heated at 85° C. for 10 hours. After the usual work-up, the crude mixture was dissolved in 1 N HCl (40 mL) and washed with CH2Cl2 (2×10 mL). The aqueous layer was basified with 5 N NaOH (10 mL) and extracted with CH2Cl2 (3×10 mL). The combined organic phases were dried over Na2SO4, filtered and concentrated in vacuo to provide the title compound (0.800 g, 57%) as a bright yellow solid which was used without further purification. 1H-NMR (CDCl3): δ 8.64 (br s, 1H), 8.25 (d, J=2.4 Hz, 1H), 7.53 (d, J=8.8 Hz, 1H), 6.82 (d, J=8.8 Hz, 1H), 3.41 (br s, 4H), 3.35 (br s, 2H), 2.64 (br s, 2H), 2.53 (br s, 4H), 1.61 (br s, 4H), 1.44 (br s, 2H), 1.19 (t, J=7.0 Hz, 6H).

reactant | N,N-diethyl-4-fluoro-3-nitrobenzamide | 4.2 mmol, 1.0 g | C(C)N(C(C1=CC(=C(C=C1)F)[N+](=O)[O-])=O)CC | C11H13FN2O3
reactant | 2-(1-piperidinyl)ethanamine | 3.96 mmol, 0.564 mL | N1(CCCCC1)CCN | C7H16N2
solvent | EtOH | 30 mL | CCO | C2H6O
solvent | HCl | 1 N, 40 mL | Cl | ClH
product | N,N-diethyl-3-nitro-4-{[2-(1-piperidinyl)ethyl]amino}benzamide | 0.800 g, 57% | C(C)N(C(C1=CC(=C(C=C1)NCCN1CCCCC1)[N+](=O)[O-])=O)CC | C18H28N4O3
